US05843956
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.0 g, 4.3 mmol), DMSO (3 ml) and 4-(aminomethyl)pyridine (0.92 ml, 9 mmol) was heated at 80°-90° C. overnight. The reaction mixture was poured into water (200 ml)/NH4OH (1 ml) and the mixture was extracted with CH2Cl2 (3×100 ml). The CH2Cl2 layers were combined, dried over MgSO4 and evaporated. The residue was crystallized from ethyl acetate and recrystallized from ethyl acetate to afford 450 mg of 1-ethyl-N-(4-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 191°-192° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 4.3 mmol, 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
reactant | 4-(aminomethyl)pyridine | 9 mmol, 0.92 ml | NCC1=CC=NC=C1 | C6H8N2
reactant | NH4OH | 1 ml | [NH4+].[OH-]
solvent | water | 200 ml | O | H2O
product | 1-ethyl-N-(4-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 450 mg | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC=NC=C2 | C18H17N5
